US07550505B2
3-(1-phenylphenylsulfonyl)-N-(4-Cyano-3-(trifluoromethyl)phenyl)-2-hydroxy-2-methylpropanamide, (PLM54)
To a solution of 3-(1-phenylphenylthio)-N-(4-Cyano-3-(trifluoromethyl)phenyl)-2-hydroxy-2-methylpropanamide (85 mg, 0.21 mmol) in dichloromethane (0.3 mL) at −78° C. was added 30% hydrogen peroxide (0.036 mL, 1.26 mmol) followed by the slow addition of trifluoroacetic anhydride (0.151 mL, 1.07 mmol). The reaction was stirred at room temperature for 16 h. The reaction was diluted with dichloromethane. Cold water and brine were added, and the reaction was stirred for 20 minutes. The organic layer was separated, dried over magnesium sulfate, filtered and evaporated. Purification by column chromatography (hexane:EtOAc 50:50) yielded 41 mg of desired product.

reactant | 3-(1-phenylphenylthio)-N-(4-Cyano-3-(trifluoromethyl)phenyl)-2-hydroxy-2-methylpropanamide | 0.21 mmol, 85 mg | C1(=CC=CC=C1)C1(CC=CC=C1)SCC(C(=O)NC1=CC(=C(C=C1)C#N)C(F)(F)F)(C)O | C24H21F3N2O2S
reactant | hydrogen peroxide | 1.26 mmol, 0.036 mL | OO | H2O2
reactant | trifluoroacetic anhydride | 1.07 mmol, 0.151 mL | FC(C(=O)OC(C(F)(F)F)=O)(F)F | C4F6O3
reactant | water | O | H2O
solvent | dichloromethane | 0.3 mL | ClCCl | CH2Cl2
solvent | brine | [Cl-].[Na+].O
product | 3-(1-phenylphenylsulfonyl)-N-(4-Cyano-3-(trifluoromethyl)phenyl)-2-hydroxy-2-methylpropanamide | 41 mg | C1(=CC=CC=C1)C1(CC=CC=C1)S(=O)(=O)CC(C(=O)NC1=CC(=C(C=C1)C#N)C(F)(F)F)(C)O | C24H21F3N2O4S
